US07678820B2
To a solution of 4-{5-[4-fluoro-3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}-1H-indole (300 mg) in THF (1.5 ml) was added, propane-2-amine (0.75 ml), and after sealing the tube, the solution was stirred at 50 to 55° C. for 40 hours. It was concentrated under reduced pressure, and then purified by silica gel chromatography (n-hexane:EtOAc). The obtained solid was dissolved in acetone under heating, and added with n-hexane, and the precipitate was filtered to obtain 4-[3-(1H-indol-4-yl)-1,2,4-oxadiazol-5-yl]-N-isopropyl-2-(trifluoromethyl)aniline (295 mg).

reactant | 4-{5-[4-fluoro-3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}-1H-indole | 300 mg | FC1=C(C=C(C=C1)C1=NC(=NO1)C1=C2C=CNC2=CC=C1)C(F)(F)F | C17H9F4N3O
reactant | propane-2-amine | 0.75 ml | CC(C)N | C3H9N
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
product | 4-[3-(1H-indol-4-yl)-1,2,4-oxadiazol-5-yl]-N-isopropyl-2-(trifluoromethyl)aniline | 295 mg | N1C=CC2=C(C=CC=C12)C1=NOC(=N1)C1=CC(=C(NC(C)C)C=C1)C(F)(F)F | C20H17F3N4O
